US07981874B2
1-(4-bromophenyl)-3-chloropropan-1-one (4.5 g, 18.18 mmol) and diethyl methylphosphonite (6 g, 44.1 mmol) were stirred in refluxing toluene (9 mL) for 5 hours. Room temperature was attained and the solvent removed in vacuo. Purification of the residue by MPLC (0-10% MeOH-EtOAc) gave ethyl [3-(4-bromophenyl)-3-oxopropyl]methylphosphinate as a pale yellow oil that crystallised on standing.

reactant | 1-(4-bromophenyl)-3-chloropropan-1-one | 18.18 mmol, 4.5 g | BrC1=CC=C(C=C1)C(CCCl)=O | C9H8BrClO
reactant | diethyl methylphosphonite | 44.1 mmol, 6 g | CP(OCC)OCC | C5H13O2P
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [3-(4-bromophenyl)-3-oxopropyl]methylphosphinate | BrC1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C12H16BrO3P
